US06608049B2
In an analogous manner to the procedure of Example XIV, 783 mg (4.05 mmol) of 1-(2-amino-5-hydroxyphenyl)-3-methyl-1-butanone in 30 ml of half-conc. hydrochloric acid are reacted with 294 mg (4.25 mmol) of sodium nitrite in 15 ml of water and 914 mg (4.05 mmol) of tin(II) chloride dihydrate in 15 ml of conc. hydrochloric acid to give 317 mg (41%) of 5-hydroxy-3-isobutyl-1H-indazole.

reactant | 1-(2-amino-5-hydroxyphenyl)-3-methyl-1-butanone | 4.05 mmol, 783 mg | NC1=C(C=C(C=C1)O)C(CC(C)C)=O | C11H15NO2
reactant | sodium nitrite | 4.25 mmol, 294 mg | N(=O)[O-].[Na+]
reactant | tin(II) chloride dihydrate | 4.05 mmol, 914 mg | O.O.[Sn](Cl)Cl
solvent | water | 15 ml | O | H2O
solvent | hydrochloric acid | 15 ml | Cl | ClH
product | 5-hydroxy-3-isobutyl-1H-indazole | 317 mg, 41% | OC=1C=C2C(=NNC2=CC1)CC(C)C | C11H14N2O
